US09332754B2
Production of 6-trifluoromethylthiohexyl-[2,4-dichloro-5-(2,2,2-trifluoroethylsulfinyl)phenyl]ether (present compound No. A-0479)
In 30 ml of chloroform was dissolved 0.53 g (1.15 mmol) of 6-trifluoromethylthiohexyl-[2,4-dichloro-5-(2,2,2-trifluoroethylthio)phenyl]ether. Thereto was added 0.26 g (1.13 mmol) of 3-chloroperbenzoic acid (purity: about 75%) at 0° C., and the mixture was stirred for 3 hours at room temperature. Then, the solvent was distilled off under reduced pressure, 0.5 ml of triethylamine was added to the residue, and the residue was purified by silica gel column chromatography (developing solvent: a mixed solvent of n-hexane ethyl acetate=5:1), to obtain 0.41 g (yield: 75%) of an intended product.

reactant | 6-trifluoromethylthiohexyl-[2,4-dichloro-5-(2,2,2-trifluoroethylthio)phenyl]ether | 1.15 mmol, 0.53 g | FC(SCCCCCCOC1=C(C=C(C(=C1)SCC(F)(F)F)Cl)Cl)(F)F | C15H16Cl2F6OS2
reactant | 3-chloroperbenzoic acid | 1.13 mmol, 0.26 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | n-hexane ethyl acetate | C(C)OC(C)=O.CCCCCC
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-trifluoromethylthiohexyl-[2,4-dichloro-5-(2,2,2-trifluoroethylsulfinyl)phenyl]ether | 0.41 g, yield: 75% | FC(SCCCCCCOC1=C(C=C(C(=C1)S(=O)CC(F)(F)F)Cl)Cl)(F)F | C15H16Cl2F6O2S2
